US07534880B2
2. Preparation of 2-ethyl-2-hydroxy-1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-butane-1-one
To a solution of 29.15 g (0.0587 mol) of 2-bromo-1-{4-[4-(2-bromo-2-methyl-propionyl)-phenoxy]-phenyl}-2-ethyl-butane-1-one dissolved in 60 ml of dichloromethane, 16.88 g (0.211 mol) of 50% NaOH and 291.5 mg of 50% BTEAC were added. The reaction was refluxed for 3 h, adding every 30′, 291.5 mg of BTEAC, then diluted with water and dichloromethane.

reactant | 2-bromo-1-{4-[4-(2-bromo-2-methyl-propionyl)-phenoxy]-phenyl}-2-ethyl-butane-1-one | 0.0587 mol, 29.15 g | BrC(C(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(C(C)(C)Br)=O)(CC)CC | C22H24Br2O3
reactant | NaOH | 0.211 mol, 16.88 g | [OH-].[Na+]
reactant | water | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | BTEAC | 291.5 mg | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
catalyst | BTEAC | 291.5 mg | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
product | 2-ethyl-2-hydroxy-1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-butane-1-one | C(C)C(C(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(C(C)(C)O)=O)(CC)O | C22H26O5
